US07893058B2
Step 6: (5-Bromo-imidazo[1,2-a]pyrazin-8-yl)-(3-hydroxymethyl-4-morpholin-4-yl-phenyl)-carbamic acid tert-butyl ester
A solution of (5-bromo-imidazo[1,2-a]pyrazin-8-yl)-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-morpholin-4-yl-phenyl]-carbamic acid tert-butyl ester (0.164 g, 0.265 mmol) in 1M tetrabutylammonium fluoride in THF (0.29 mL, 0.29 mmol) is stirred at room temperature overnight. The solvent is removed under vacuum and the residue is purified by silica gel column chromatography eluting with ethyl acetate. The title compound is isolated (0.126 g, 94%).

reactant | (5-bromo-imidazo[1,2-a]pyrazin-8-yl)-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-morpholin-4-yl-phenyl]-carbamic acid tert-butyl ester | 0.265 mmol, 0.164 g | C(C)(C)(C)OC(N(C1=CC(=C(C=C1)N1CCOCC1)C(O[SiH2]C(C)(C)C)(C)C)C=1C=2N(C(=CN1)Br)C=CN2)=O | C28H40BrN5O4Si
reactant | THF | 0.29 mmol, 0.29 mL | C1CCOC1 | C4H8O
solvent | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (5-Bromo-imidazo[1,2-a]pyrazin-8-yl)-(3-hydroxymethyl-4-morpholin-4-yl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C1=CC(=C(C=C1)N1CCOCC1)CO)C=1C=2N(C(=CN1)Br)C=CN2)=O | C22H26BrN5O4
